US07777055B2
9.1.1 Synthesis of 4-bromo-5,5′-dimethyl-2,2′-bithienyl (BT3)
A solution of 2-bromo-5-methylthiophene (4.00 g, 22.6 mmol) in anhydrous ether (10 mL) was treated with magnesium turnings (0.577 g, 23.7 mmol) and heated at reflux for 45 min under an N2 atmosphere. The heat source was removed and the reaction mixture was slowly allowed to cool to room temperature when it was transferred to a flame-dried addition funnel via a cannula. A solution of 3,5-dibromo-2-methylthiophene (5.49 g, 21.5 mmol) and Pd(dppf)Cl2 (16.5 mg, 0.023 mmol) in 75 mL anhydrous ether was treated dropwise with the solution of the Grignard reagent over 30 min at 0° C. under an N2 atmosphere using an addition funnel. The resulting solution was allowed to slowly warm to room temperature and stirred for 72 h under an N2 atmosphere, when it was quenched with saturated NH4Cl (50 mL). The aqueous layer was separated and extracted with ether (3×75 mL). The combined organic layers were dried over Na2SO4, filtered and evaporated to dryness in vacuo. The crude product was purified by flash chromatography (hexanes) yielding 4.32 g of pure BT3 as a white solid. Yield: 74%.

reactant | 2-bromo-5-methylthiophene | 22.6 mmol, 4.00 g | BrC=1SC(=CC1)C | C5H5BrS
reactant | magnesium | 23.7 mmol, 0.577 g | [Mg] | Mg
reactant | 3,5-dibromo-2-methylthiophene | 21.5 mmol, 5.49 g | BrC1=C(SC(=C1)Br)C | C5H4Br2S
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | ether | 75 mL | CCOCC | C4H10O
catalyst | Pd(dppf)Cl2 | 0.023 mmol, 16.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-bromo-5,5′-dimethyl-2,2′-bithienyl | Yield: 74% | BrC=1C=C(SC1C)C=1SC(=CC1)C | C10H9BrS2
